US06329391B1
5-Bromo-3-chloro-2,4-difluorobenzoic acid
In a mixture of 50 ml of acetic acid, 10 ml of water and 13 ml of nitric acid is dissolved 2 g (0.014 mole) of 3-chloro-2,4-difluorobenzoic acid and 3.64 ml (0.028 mole) of bromine. A solution of 3.52 g (0.0208 mole) of silver nitrate in 10 ml of water is then added slowly. After 14 hours at 20° C., the precipitate is filtered and rinsed with ether. The organic phase is washed with sodium bisulfite, then water and dried. Removal of the solvent affords the desired product.

reactant | nitric acid | 13 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-chloro-2,4-difluorobenzoic acid | 0.014 mole, 2 g | ClC=1C(=C(C(=O)O)C=CC1F)F | C7H3ClF2O2
reactant | bromine | 0.028 mole, 3.64 ml | BrBr | Br2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
catalyst | silver nitrate | 0.0208 mole, 3.52 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 10 ml | O | H2O
product | 5-Bromo-3-chloro-2,4-difluorobenzoic acid | BrC=1C(=C(C(=C(C(=O)O)C1)F)Cl)F | C7H2BrClF2O2
